US08030322B2
Preparation 27: 5-(2,4-dimethylthiazol-5-yl)-4-methyl-4H-1,2,4-triazole-3-thiol (Prep27)
To a 2,4-dimethylthiazole-5-carbohydrazide (Prep26, 23 g, 0.13 mol) in ethanol (100 ml), methyl isothiocyanate (49.1 g, 0.67 mol) was added. The mixture was refluxed overnight. Then the ethanol was partially removed under vacuum and the residue was filtered. The solid was dried under vacuum to afford 14 g of the title compound (y=46%).

reactant | 2,4-dimethylthiazole-5-carbohydrazide | 0.13 mol, 23 g | CC=1SC(=C(N1)C)C(=O)NN | C6H9N3OS
reactant | methyl isothiocyanate | 0.67 mol, 49.1 g | CN=C=S | C2H3NS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2,4-dimethylthiazol-5-yl)-4-methyl-4H-1,2,4-triazole-3-thiol | 14 g, 46% | CC=1SC(=C(N1)C)C=1N(C(=NN1)S)C | C8H10N4S2
